US05679679
Preparation of Glycine methyl ester-N-(butoxycarbonyl)pipecolinamide
1-(tertButoxycarbonyl)-2-piperidinecarboxylic acid (11.46 g, 1.2 eq), glycine methyl ester hydrochloride (9.42 g), 1-(dimethylaminopropyl)-3-(ethyl)carbodiimide hydrochloride (8.00 g, 1.0 eq) and Et3N (16.3 mL) were reacted as described in Example 1 to give 5.6 g of the title compound as a colorless crystalline solid: mp 118.5°-119.5° C. (EtOAc/isooctane 1:3); 1H-NMR (CDCl3) σ 6.60 (br s, 1H, CONH), 4.81 (m, 1H), 3.82-4.35 (complex m, 4H), 3.76 (s, 3H, OMe), 2.89 (m, 1H), 2.32 (m, 1H), 1.33-1.72 (complex m, 4H), 1.49 (s, 9H, tBu); Anal (calcd for C14H24 N2O5): C 55.99, H 8.05, N 9.33. Found: C 56.00, H 8.09, N 9.36.

reactant | 1-(tertButoxycarbonyl)-2-piperidinecarboxylic acid | 11.46 g, 1.2 eq | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
reactant | glycine methyl ester hydrochloride | 9.42 g | Cl.COC(CN)=O
reactant | 1-(dimethylaminopropyl)-3-(ethyl)carbodiimide hydrochloride | 8.00 g, 1.0 eq | Cl.CN(C)CCCN=C=NCC
reactant | Et3N | 16.3 mL | CCN(CC)CC | C6H15N
product | Glycine methyl ester N-(butoxycarbonyl)pipecolinamide | 5.6 g | COC(CN)=O.C(CCC)OC(=O)NC(C1NCCCC1)=O | InChI=1S/C11H20N2O3.C3H7NO2/c1-2-3-8-16-11(15)13-10(14)9-6-4-5-7-12-9;1-6-3(5)2-4/h9,12H,2-8H2,1H3,(H,13,14,15);2,4H2,1H3
